US04529698
12.0 g of 2,4-dimethoxybenzylamine hydrochloride is added to 100 ml of 1N sodium hydroxide solution and the mixture is extracted with 125 ml of ethyl acetate. The organic layer is dried over anhydrous sodium sulfate and stripped of solvent to give 10.2 g of 2,4-dimethoxybenzylamine as an oil. This amine is dissolved in 150 ml of benzene; 6.47 g of benzaldehyde and 0.6 g of p-toluenesulfonic acid monohydrate are added. The mixture is heated under reflux removing water with a Dean-Stark separator and in two hours the calculated amount of water (1.1 ml) separates out. The mixture is cooled to room temperature. Upon further cooling the benzene solution deposits some precipitate. Benzene is removed under reduced pressure and 60 ml of petroleum ether is added to the residue. An oily layer separates out with more precipitate. Benzene (10 ml) is added to make the layers homogeneous and the remaining precipitate is filtered. The filtrate is stripped of solvent to give 14.2 g of the title compound as an oil.

reactant | 2,4-dimethoxybenzylamine hydrochloride | 12.0 g | Cl.COC1=C(CN)C=CC(=C1)OC
solvent | sodium hydroxide | 1N, 100 ml | [OH-].[Na+]
product | 2,4-dimethoxybenzylamine | 10.2 g | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
